US08183271B2
Methyl 4-(3-carboxy-7-cyanoheptyl)benzoate
A solution of 7.45 ml (53.42 mmol) of triethylamine and 1.53 ml (40.47 mmol) of formic acid in 67 ml of dioxane is added to a solution of 6.92 g (16.19 mmol) of diallyl 2-(4-cyanobutyl)-2-[2-(4-methoxycarbonylphenyl)ethyl]malonate, 594 mg (2.26 mmol) of triphenylphosphine and 145 mg (0.64 mmol) of palladium acetate in 67 ml of dioxane at room temperature. The reaction mixture is then stirred at 100° C. for 12 hours. After conversion is complete, the reaction solution is cooled and the solvent is removed in vacuo. The residue is taken up in ethyl acetate and water and acidified with 1 N hydrochloric acid, and the organic phase is separated off. The aqueous phase is extracted three more times with ethyl acetate, and the organic phases are then combined, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solution is concentrated in vacuo. The resulting crude product is purified by flash chromatography on silica gel [mobile phase: cyclohexane/ethyl acetate (with 1% formic acid) 2:1→1:3]. 2.1 g (43% of theory) of a colorless solid are obtained.

reactant | triethylamine | 53.42 mmol, 7.45 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 40.47 mmol, 1.53 ml | C(=O)O | CH2O2
reactant | diallyl 2-(4-cyanobutyl)-2-[2-(4-methoxycarbonylphenyl)ethyl]malonate | 16.19 mmol, 6.92 g | C(#N)CCCCC(C(=O)OCC=C)(C(=O)OCC=C)CCC1=CC=C(C=C1)C(=O)OC | C24H29NO6
reactant | triphenylphosphine | 2.26 mmol, 594 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 67 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 67 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.64 mmol, 145 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 4-(3-carboxy-7-cyanoheptyl)benzoate | C(=O)(O)C(CCC1=CC=C(C(=O)OC)C=C1)CCCCC#N | C17H21NO4
